US06288061B1
Ethyl 3-(4-chlorophenyl)-2-hydroxyimino-3-oxopropionate and 4-nitrobenzylamine are reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-chlorophenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate, which is dissolved in ethyl alcohol. 1 M Sodium hydroxide solution is added and the mixture is reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-chlorophenyl)-2-(4-nitrophenyl)imidazole-4-carboxylic acid.

reactant | Ethyl 3-(4-chlorophenyl)-2-hydroxyimino-3-oxopropionate | ClC1=CC=C(C=C1)C(C(C(=O)OCC)=NO)=O | C11H10ClNO4
reactant | 4-nitrobenzylamine | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | ethyl 5-(4-chlorophenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate | ClC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C18H14ClN3O4
